US06982348B2
5) (1RS,2SR)-2-amino-3-(4-tert-butylphenyl)-1-(3-chlorophenyl)propan-1-ol
To a solution of (4RS,5SR)-4-(4-tert-butylbenzyl)-5-(3-chlorophenyl)-1,3-oxazolidin-2-one (9.50 g, 27.6 mmol) in ethanol (70 ml) was added 8N aqueous sodium hydroxide solution (17.3 ml, 138 mmol), and the mixture was stirred at 80° C. overnight. To the reaction solution was added water (20 ml) and the mixture was extracted with ethyl acetate (50 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure to give the objective substance (8.82 g, 100%).

reactant | (4RS,5SR)-4-(4-tert-butylbenzyl)-5-(3-chlorophenyl)-1,3-oxazolidin-2-one | 27.6 mmol, 9.50 g | C(C)(C)(C)C1=CC=C(CC2NC(OC2C2=CC(=CC=C2)Cl)=O)C=C1 | C20H22ClNO2
reactant | sodium hydroxide | 138 mmol, 8N, 17.3 ml | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-3-(4-tert-butylphenyl)-1-(3-chlorophenyl)propan-1-ol | NC(C(O)C1=CC(=CC=C1)Cl)CC1=CC=C(C=C1)C(C)(C)C | C19H24ClNO
